US07166621B2
5,6-Dichloropyridin-3-ol was reacted with methyl 2-bromobutyrate using a similar procedure to that described in Example 1, Stage 1 to give methyl 2-(5,6-dichloro-3-pyridyloxy)butyrate, orange liquid.

reactant | 5,6-Dichloropyridin-3-ol | ClC=1C=C(C=NC1Cl)O | C5H3Cl2NO
reactant | methyl 2-bromobutyrate | BrC(C(=O)OC)CC | C5H9BrO2
product | methyl 2-(5,6-dichloro-3-pyridyloxy)butyrate | ClC=1C=C(C=NC1Cl)OC(C(=O)OC)CC | C10H11Cl2NO3
